US08030300B2
3-(2-Oxo-2H-pyridin-1-ylmethyl)piperidine-1-carboxylic acid benzyl ester:
To a stirred solution of 2-hydroxypyridine (200 mg, 2 mmol) in DMF (5 mL) was added NaH (60% mixture in mineral oil, 100 mg, 2.5 mmol). The mixture was stirred at 80° C. under N2 for 2 h, and then 3-iodomethylpiperidine-1-carboxylic acid benzyl ester (720 mg, 2 mmol) was added. The mixture was stirred at 80° C. for 10 h, cooled to room temperature, quenched with water, and extracted with EtOAc. The combined organic layers were washed with brine, dried, and concentrated. The residue was purified by chromatography with CH2Cl2-EtOAc-MeOH (10:10:1) to give a viscous oil (475 mg, 73%). 1H NMR (CDCl3) δ 7.30 (m, 7H), 6.55 (d, 1H, J=9.0 Hz), 6.12 (m, 1H), 5.11 (s, 2H), 4.10-3.50 (m, 4H), 3.09 (t, 1H, J=10.2 Hz), 2.92 (dd, 1H, J=13.2, 9.0 Hz), 2.10 (m, 1H), 1.85-1.20 (m, 4H).

reactant | 2-hydroxypyridine | 2 mmol, 200 mg | OC1=NC=CC=C1 | C5H5NO
reactant | NaH | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | 3-iodomethylpiperidine-1-carboxylic acid benzyl ester | 2 mmol, 720 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CI | C14H18INO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(2-Oxo-2H-pyridin-1-ylmethyl)piperidine-1-carboxylic acid benzyl ester | 475 mg, 73% | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CN1C(C=CC=C1)=O | C19H22N2O3
